US05264437
1-(3-Methylthiophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (100 mg, 0.27 mmole), prepared, e.g., as described in Example 5B, was dissolved in methylene chloride (20 ml) and cooled to 0° C. m-Chloroperoxybenzoic acid (45 mg, 0.27 mmole) was added to the solution. The solution was stirred for 2 hours at 0° C. The solution was then washed with a 10% solution of Na2SO3 (2 ml) followed by a wash with saturated NaHCO3 (10 ml). The organic and aqueous phases were separated and the organic phase was dried with MgSO4. The solvents were removed and the residue purified by preparative thin-layer chromatography (ethyl acetate as eluent) yielding 51 mg (0.13 mmole, 48% yield) of 1-(3-methylsulfinylphenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione, as a white solid, (mp 218°-219° C.).

reactant | 1-(3-Methylthiophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.27 mmole, 100 mg | CSC=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC2=CC=NC=C2)=O | C20H16N4O2S
reactant | m-Chloroperoxybenzoic acid | 0.27 mmole, 45 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-methylsulfinylphenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.13 mmole, 51 mg, 48% yield | CS(=O)C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC2=CC=NC=C2)=O | C20H16N4O3S
